US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)2-amino-5-nitro-benzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 2-amino-5-nitrobenzohydrazide. After stirring at 100° C. the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 69 mg of the title compound (76%) as a yellow powder in 98.8% purity by HPLC (Rt: 4.22, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 2-amino-5-nitrobenzohydrazide | NC1=C(C(=O)NN)C=C(C=C1)[N+](=O)[O-] | C7H8N4O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)2-amino-5-nitro-benzohydrazide | 69 mg, 76% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=C(C=CC(=C1)[N+](=O)[O-])N)=O | C15H10IN5O4
